US08183264B2
3-(2-(5-Phenoxy-thiophen-2-ylmethyl)-2H-tetrazol-5-yl)-pyridin-2-ylamine
To a solution of THF (5 mL) and (5-phenoxy-thiophen-2-yl)-methanol (100 mg) described in Manufacturing Example 46-1, 3-(2H-tetrazol-5-yl)-pyridin-2-ylamine (79 mg) described in Manufacturing Example 5-1, and triphenylphosphine (250 mg) was added diethyl azodicarboxylate (170 mg, 40% toluene solution) at room temperature, which was stirred for 20 minutes. Water was added to the reaction solution, which was then extracted with ethyl acetate. The solvent was evaporated from the organic layer under a reduced pressure and purified by silica gel chromatography (hexane:ethyl acetate=2:1, then 1:1), after which was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1). The solvent was evaporated under a reduced pressure from the organic layer thus obtained, methanol and 2N aqueous sodium hydroxide were added to the residue, which was stirred for 20 minutes at 80° C. Water was added to the reaction solution, which was extracted with ethyl acetate, and the organic layer was washed three times with water. The solvent was evaporated under a reduced pressure and the organic layer was purified by NH silica gel chromatography (ethyl acetate) to obtain the titled compound (20 mg).

reactant | (5-phenoxy-thiophen-2-yl)-methanol | 100 mg | O(C1=CC=CC=C1)C1=CC=C(S1)CO | C11H10O2S
reactant | 3-(2H-tetrazol-5-yl)-pyridin-2-ylamine | 79 mg | N=1NN=NC1C=1C(=NC=CC1)N | C6H6N6
reactant | triphenylphosphine | 250 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 170 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | Water | O | H2O
solvent | methanol | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(2-(5-Phenoxy-thiophen-2-ylmethyl)-2H-tetrazol-5-yl)-pyridin-2-ylamine | 20 mg | O(C1=CC=CC=C1)C1=CC=C(S1)CN1N=C(N=N1)C=1C(=NC=CC1)N | C17H14N6OS
